US06583135B2
Preparation of 3-Benzoyl-10-(2-methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
tert-Butyl 10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (4.40 g, 11.9 mmol), Pd(PPh3)4 (1.40 g, 1.21 mmol), and dimethoxyethane (60 mL) were stirred at room temperature for 15 minutes then treated with 2-methoxyboronic acid (2.18 g, 14.3 mmol) and a 2 M solution of Na2CO3 (36 mL). The reaction was heated to reflux for 17.0 hours then cooled to room temperature and partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (2×) and the organic layers were combined, washed with brine, dried over MgSO4 and concentrated in vacuo to give a brown foam which was passed through a column of silica gel with 40% ethyl acetate/hexane to give 3.87 g (82%) of a white solid as the title compound: mp 218.9-221.6° C. 1H NMR (400 MHz, DMSO-d6) δ 10.95-10.85 (m, 1H), 7.43-7.38 (m, 4H), 7.27-7.23 (m, 2H), 7.17-6.97 (m, 4H), 6.67-6.61 (m, 1H), 3.82 (m, 1H), 3.66-3.53 (m, 5H), 3.27 (m, 1H), 3.09-3.06 (m, 1H), 2.85 (m, 1H), 2.39-2.32 (m, 1H), 2.17-2.13 (m, 1H); 13C NMR (100 MHz, DMSO-d6) δ 170.1, 169.8, 156.8, 156.7, 137.1, 135.7, 134.8, 134.6, 130.8, 130.5, 130.4, 130.2, 130.0, 128.9, 128.5, 128.3, 128.2, 126.1, 126.0, 120.5, 119.9, 119.8, 119.7, 111.2, 110.5, 110.2, 109.7, 109.5, 54.9, 54.7, 49.6, 48.3, 46.1, 44.2, 29.4, 27.5, 25.7, 24.6; IR (diffuse reflectance) 3202, 3181 (b), 1602 (s), 1500, 1489, 1466, 1434, 1299, 1266, 1249, 1241, 786, 759 (s), 748, 707 cm−1; HRMS (FAB) calcd for C26H24N2O2+H1 397.1916, found 397.1910. Anal. Calcd for C26H24N2O2: C, 78.76; H, 6.10; N, 7.07. Found: C, 78.40; H, 6.22; N, 6.97.

reactant | tert-Butyl 10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 11.9 mmol, 4.40 g | BrC=1C=2C3=C(NC2C=CC1)CCN(CC3)C(=O)OC(C)(C)C | C17H21BrN2O2
reactant | dimethoxyethane | 60 mL | C(OC)COC | C4H10O2
reactant | Na2CO3 | 36 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 1.21 mmol, 1.40 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-Benzoyl-10-(2-methoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)OC | C26H24N2O2
